US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4-chloro-3-methoxy-benzoyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60 from 92 mg (0.22 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 1 mL THF and 2.01 mL 0.25M 4-chloro-3-methoxyphenylmagnesium bromide. Yield: 40 mg of a white solid. LC-MSD, m/z for C23H16BrClN2O3 [M+H]+=483.0, 485.0; HPLC retention time: 2.5 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.22 mmol, 92 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C18H16BrN3O3
reactant | 4-chloro-3-methoxyphenylmagnesium bromide | 0.25M, 2.01 mL | ClC1=C(C=C(C=C1)[Mg]Br)OC
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4-chloro-3-methoxy-benzoyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(C1=CC(=C(C=C1)Cl)OC)=O | C23H16BrClN2O3
